US05225402
1-[1-(2-Methoxy-4-acetyloxybenzoyl)-4-piperidinyl]-3,4-dihydrocarbostyril (0.4 g) and sodium hydroxide (0.5 g) are dissolved in methanol (20 ml) and the mixture is stirred at room temperature for 1 hour. The solvent is concentrated and water is added to the residue, then the mixture is extracted with chloroform, dried with magnesium sulfate. The solvent is ditilled off and the resulting residue is purified by silica gel column chromatography (solvent: n-hexane:ethyl acetate=1:1) to give 1-[1-(2-methoxy-4-hydroxybenzoyl)-4-piperidinyl]-3,4-dihydrocarbostyril (0.3 g).

reactant | 1-[1-(2-Methoxy-4-acetyloxybenzoyl)-4-piperidinyl]-3,4-dihydrocarbostyril | 0.4 g | COC1=C(C(=O)N2CCC(CC2)N2C(=O)CCC3=CC=CC=C23)C=CC(=C1)OC(C)=O | C24H26N2O5
reactant | sodium hydroxide | 0.5 g | [OH-].[Na+]
solvent | methanol | 20 ml | CO | CH4O
product | 1-[1-(2-methoxy-4-hydroxybenzoyl)-4-piperidinyl]-3,4-dihydrocarbostyril | 0.3 g | COC1=C(C(=O)N2CCC(CC2)N2C(=O)CCC3=CC=CC=C23)C=CC(=C1)O | C22H24N2O4
